US07534788B2
Step 4: ((cis)-2,6-Dimethyl-morpholin-4-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanone
The above prepared ((cis)-2,6-dimethyl-morpholin-4-yl)-(5-hydroxy-benzofuran-2-yl)-methanone (0.150 g, 0.545 mmol) was dissolved in 2.7 mL of THF and treated successively at 10° C. with 1-isopropyl-piperidin-4-ol (0.156 g, 2 eq.), triphenylphosphine (0.285 g, 2 eq.) and DIAD (0.212 mL, 2 eq.), and the mixture then kept at ambient temperature for another 3 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by two flash chromatographies (SiO2, NEt3/AcOEt=4/96 and CH2Cl2/MeOH=9/1), yielded eventually 0.140 g of the title compound as colorless oil.

reactant | ((cis)-2,6-dimethyl-morpholin-4-yl)-(5-hydroxy-benzofuran-2-yl)-methanone | 0.545 mmol, 0.150 g | C[C@@H]1CN(C[C@@H](O1)C)C(=O)C=1OC2=C(C1)C=C(C=C2)O | C15H17NO4
reactant | 1-isopropyl-piperidin-4-ol | 0.156 g, 2 eq. | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | 0.285 g, 2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.212 mL, 2 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2.7 mL | C1CCOC1 | C4H8O
product | ((cis)-2,6-Dimethyl-morpholin-4-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanone | 0.140 g | C[C@@H]1CN(C[C@@H](O1)C)C(=O)C=1OC2=C(C1)C=C(C=C2)OC2CCN(CC2)C(C)C | C23H32N2O4
